US09085583B2
Step 6: (R or S)-methyl 1-(1-(1-(tert-butoxycarbonyl)piperidin-4-yl)ethyl)-2-methyl-1H-indole-3-carboxylate
A 250 mL round bottom flask was charged with a magnetic stir bar, (R or S,Z)-tert-butyl 4-(1-(3-(2-bromophenyl)-4-methoxy-4-oxobut-2-en-2-ylamino)ethyl)piperidine-1-carboxylate (3.33 g, 6.92 mmol), RuPhos Pre-catalyst II (Chloro-(2-Dicyclohexylphosphino-2′,6′-diisopropoxy-1,1′-biphenyl)[2-(2-aminoethyl)phenyl]palladium(II)-methyl-t-butyl ether adduct) (0.463 g, 0.553 mmol), dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine (0.387 g, 0.830 mmol), anhydrous 1,4-dioxane (27.7 ml, 6.92 mmol), and sodium methoxide (0.561 g, 10.38 mmol). The reaction mixture was purged and back-filled with nitrogen and heated to 100° C. with stirring overnight before being allowed to cool to rt. The reaction was diluted with ethyl acetate (˜100 ml) and the mixture was filtered through a bed of diatomaceous earth. The filtrate was pre-absorbed onto silica gel (˜30 g) and purified via silica gel chromatography (120 g) using ethyl acetate/hexanes (1:1) as eluent to afford the title compound (2.01 g, 4.77 mmol, 68.9% yield).

reactant | tert-butyl 4-(1-(3-(2-bromophenyl)-4-methoxy-4-oxobut-2-en-2-ylamino)ethyl)piperidine-1-carboxylate | 6.92 mmol, 3.33 g | BrC1=C(C=CC=C1)C(=C(C)NC(C)C1CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C23H33BrN2O4
reactant | dicyclohexyl(2′,6′-diisopropoxybiphenyl-2-yl)phosphine | 0.830 mmol, 0.387 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
reactant | 1,4-dioxane | 6.92 mmol, 27.7 ml | O1CCOCC1 | C4H8O2
reactant | sodium methoxide | 10.38 mmol, 0.561 g | C[O-].[Na+]
catalyst | RuPhos | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C30H43O2P
product | methyl 1-(1-(1-(tert-butoxycarbonyl)piperidin-4-yl)ethyl)-2-methyl-1H-indole-3-carboxylate | 4.77 mmol, 2.01 g, 68.9% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C)N1C(=C(C2=CC=CC=C12)C(=O)OC)C | C23H32N2O4
